US04368253
Anisil (6.5 g), made by the oxidation of anisoin with copper sulphate in pyridine, was added to acetic acid (50 g) and heated to reflux to form a solution. Hydrobromic acid (s.g. 1.48) was added at reflux until anisil just started to precipitate (about 30 ml HBr being needed). After 2 hours' reflux, more hydrobromic acid (50 ml) was added, and the solution was refluxed for a further 2 hours. After this time, thin layer chromatography showed complete conversion into a single product. The solution was poured into cold water (600 ml) to precipitate a white solid. This was filtered off, washed with water and dried to give 5.5 g of 4,4'-dihydroxybenzil. This was used without further purification.

reactant | Anisil | 6.5 g | C1(=CC=C(OC)C=C1)C(=O)C(=O)C1=CC=C(OC)C=C1 | C16H14O4
reactant | anisoin | C1(=CC=C(OC)C=C1)C(=O)C(O)C1=CC=C(OC)C=C1 | C16H16O4
reactant | acetic acid | 50 g | C(C)(=O)O | C2H4O2
reactant | Hydrobromic acid | Br | BrH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
catalyst | copper sulphate | S(=O)(=O)([O-])[O-].[Cu+2]
product | 4,4'-dihydroxybenzil | 5.5 g | OC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)O | C14H10O4
